US06514968B1
N,N-Diethyl-N-(2-{[9-(4-fluorobenzyl)-6-methyl-9H-carbazol-4-yl]oxy}ethyl)amine
9-(4-Fluorobenzyl)-6-methyl-9H-carbazol-4-ol (0.0505 g, 0.17 mmol), 2-diethylaminoethylchloride hydrochloride (0.0411 g, 0.24 mmol), potassium carbonate (0.1018 g, 0.74 mmol), sodium iodide (0.0046 g, 0.031 mmol) and DMF (3 mL) are heated at 85° C. for 3 h. After the mixture had cooled, it is partitioned between water and ethyl acetate. The combined organic layers are dried over magnesium sulfate and concentrated to dryness. The residue is chromatographed on silica gel (60 mL) using methanol/dichloromethane (1/99 to 2/98 to 4/96) to give 0.0332 g (50%) of the title compound; MS (ESI+) for C26H29FN2O m/z 405.3 (M+H)+; IR (drift) 2966, 1601, 1506, 1460, 1339, 1269, 1242, 1218, 1150, 1127, 1054, 790, 781, 746, 717 cm−; 1H NMR (CDCl3) δ1.90, 2.55, 2.80, 3.18, 4.39, 5.46, 6.71, 6.94, 7.07, 7.22, 7.33, 8.19. Anal. Calcd for C26H29FN2O: C, 77.20; H, 7.22; N, 6.93. Found: C, 75.79; H, 7.61; N, 6.55.

reactant | 9-(4-Fluorobenzyl)-6-methyl-9H-carbazol-4-ol | 0.17 mmol, 0.0505 g | FC1=CC=C(CN2C3=CC=C(C=C3C=3C(=CC=CC23)O)C)C=C1 | C20H16FNO
reactant | 2-diethylaminoethylchloride hydrochloride | 0.24 mmol, 0.0411 g | Cl.C(C)N(CCCl)CC
reactant | potassium carbonate | 0.74 mmol, 0.1018 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.031 mmol, 0.0046 g | [I-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N,N-Diethyl-N-(2-{[9-(4-fluorobenzyl)-6-methyl-9H-carbazol-4-yl]oxy}ethyl)amine | 0.0332 g, 50% | C(C)N(CCOC1=CC=CC=2N(C3=CC=C(C=C3C12)C)CC1=CC=C(C=C1)F)CC | C26H29FN2O
